US04386031
(b) 8-[2.4-Dichloro-N-(4-methoxyphenyl)-benzamido]-caprylic acid
As described in example 1(b), the reaction is carried out with 35 g (77 mmol), of 8-[2.4-dichloro-N-(4-methoxyphenyl)-benzamido]-caprylic acid methyl ester, 4 g (0.1 mol) of sodium hydroxide, 150 cc. of methanol and 5 cc. of water. Reaction time: 24 hours, reaction temperature: 25° C. The crude product is further purified chromatographically on silicic acid gel using a mixture of n-hexane and ethyl acetate (2:1) as eluant.

reactant | 8-[2.4-dichloro-N-(4-methoxyphenyl)-benzamido]-caprylic acid methyl ester | COC(CCCCCCCN(C(C1=C(C=C(C=C1)Cl)Cl)=O)C1=CC=C(C=C1)OC)=O | C23H27Cl2NO4
reactant | sodium hydroxide | 0.1 mol, 4 g | [OH-].[Na+]
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 8-[2.4-Dichloro-N-(4-methoxyphenyl)-benzamido]-caprylic acid | ClC1=C(C(=O)N(C2=CC=C(C=C2)OC)CCCCCCCC(=O)O)C=CC(=C1)Cl | C22H25Cl2NO4
